US05334748
Methyl 2-(3-phenoxyphenoxy)phenylacetate was prepared from 3-phenoxyphenol and 2-bromobenzaldehyde by the steps described in Example 1 for the preparation of methyl 2-(3-methoxyphenoxy)phenylacetate. This was the converted into (E)-methyl 3-methoxy-2-[2-(3-phenoxyphenoxy)phenyl]propenoate [1H n.m.r (250 MHz) 3.61 (3H, s), 3.78 (3H, s), 6.68-7.35 (13H, m), 7.48 (1H, s) ppm] using sodium hydride and methyl formate, and then potassium carbonate and dimethyl sulphate, using the procedure described in Example 1 for the preparation of (E)-methyl 2-[2-(3-hydroxyphenoxy)phenyl]-3-methoxypropenoate, except that just 2 equivalents of sodium hydride were used in this case.

reactant | 3-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | methyl 2-(3-methoxyphenoxy)phenylacetate | COC=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C16H16O4
reactant | (E)-methyl 3-methoxy-2-[2-(3-phenoxyphenoxy)phenyl]propenoate | CO/C=C(/C(=O)OC)\C1=C(C=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C23H20O5
reactant | sodium hydride | [H-].[Na+]
reactant | methyl formate | C(=O)OC | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | (E)-methyl 2-[2-(3-hydroxyphenoxy)phenyl]-3-methoxypropenoate | OC=1C=C(OC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=CC1 | C17H16O5
reactant | sodium hydride | 2 equivalents | [H-].[Na+]
product | Methyl 2-(3-phenoxyphenoxy)phenylacetate | O(C1=CC=CC=C1)C=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C21H18O4
